US09399751B1
4-Methyl-2-(1-phenylethyl)-3,6-dihydro-2H-pyran was prepared similarly according to EXAMPLE I using 2-phenylpropanal (500 g, 3.72 mol) and 2-methyl-1,3-butadiene (279 g, 4.1 mol). 4-Methyl-2-(1-phenylethyl)-3,6-dihydro-2H-pyran (100 g) was obtained with a boiling point of 115-116° C. at 3 mmHg.

reactant | 2-phenylpropanal | 3.72 mol, 500 g | C1(=CC=CC=C1)C(C=O)C | C9H10O
reactant | 2-methyl-1,3-butadiene | 4.1 mol, 279 g | CC(=C)C=C | C5H8
product | 4-Methyl-2-(1-phenylethyl)-3,6-dihydro-2H-pyran | 100 g | CC=1CC(OCC1)C(C)C1=CC=CC=C1 | C14H18O
